US08461175B2
A 250 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 2.36 g of 5-(2,6-difluorophenyl)-7-ethenyl-N,N-dimethyl-1H-pyrazolo[4,3-c]isoquinoline-1-sulphonamide in 30 ml of THF and then 23 ml of water, 30 ml of tort-butanol, 2.14 ml of a solution of osmium tetroxide at 2.5% in 2-methyl-2-propanol, and 5.04 g of sodium periodate are added. The mixture is stirred at RT for 4 h and then poured into 100 ml of water and extracted with AcOEt. The organic phase is washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. The crude product is purified by chromatography on silica gel (15-40 μm), eluting with DCM, to give 1.92 g of 5-(2,6-difluorophenyl)-7-formyl-N,N-dimethyl-1H-pyrazolo[4,3-c]isoquinoline-1-sulphonamide (beige solid). LC-MS-DAD-ELSD: 417 (+)=(M+H)(+).

reactant | 5-(2,6-difluorophenyl)-7-ethenyl-N,N-dimethyl-1H-pyrazolo[4,3-c]isoquinoline-1-sulphonamide | 2.36 g | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C=C)N(N=C2)S(=O)(=O)N(C)C | C20H16F2N4O2S
reactant | water | 23 ml | O | H2O
reactant | butanol | C(CCC)O | C4H10O
reactant | sodium periodate | 5.04 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | 2-methyl-2-propanol | CC(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 5-(2,6-difluorophenyl)-7-formyl-N,N-dimethyl-1H-pyrazolo[4,3-c]isoquinoline-1-sulphonamide | 1.92 g | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C=O)N(N=C2)S(=O)(=O)N(C)C | C19H14F2N4O3S
